US07361763B2
To toluene-4-sulfonic acid 3-[3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenyl ester (50 mg, 0.077 mmol), copper(I) iodide (1.5 mg, 0.004 mmol), and potassium carbonate (16 mg, 0.155 mmol) under nitrogen atmosphere was added isopropanol (0.2 mL), benzenethiol (8 μL, 0.077 mmol), and ethylene glycol (9 uL, 0.155 mmol). The reaction mixture was stirred at 80° C. for 24 h. A (1:1) mixture of 2 M aqueous KOH and MeOh (1 mL) was added, and the reaction mixture was further stirred at 50° C. for 3 h. The mixture was acidified to pH5 with 1N aqueous HCl and extracted with EtOAc twice. Extracts were combined and concentrated under vacuum. Purification by reverse phase chromatography using a gradient of H2O and acetonitrile (with 0.1% formic acid as a modifier) afforded 3-(3-phenylsulfanyl-1H-pyrrolo[2,3-b]pyridine-5-yl)-phenol as a white solid (4.3 mg, 17% yield). 1H NMR (500 MHz, DMSO-d6) δ 6.74 (dd, J=2.5, 9.0 Hz, 1H), 6.98 (t, J=2.0 Hz, 1H), 7.08 (m, 4H), 7.23 (m, 3H), 7.85 (d, J=2.5 Hz, 1H), 7.98 (s, 1H), 8.56 (d, J=2.0 Hz, 1H), 9.55 (broad s, 1H), 12.4 (broad s, 1H). MS: m/z 319 (M+H+).

reactant | toluene-4-sulfonic acid 3-[3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenyl ester | 0.077 mmol, 50 mg | IC1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)OS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H21IN2O5S2
reactant | potassium carbonate | 0.155 mmol, 16 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzenethiol | 0.077 mmol, 8 μL | C1(=CC=CC=C1)S | C6H6S
reactant | ethylene glycol | 0.155 mmol, 9 uL | C(CO)O | C2H6O2
reactant | KOH | 2 M | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
catalyst | copper(I) iodide | 0.004 mmol, 1.5 mg | [Cu]I
solvent | isopropanol | 0.2 mL | C(C)(C)O | C3H8O
product | 3-(3-phenylsulfanyl-1H-pyrrolo[2,3-b]pyridine-5-yl)-phenol | 4.3 mg, 17% yield | C1(=CC=CC=C1)SC1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C19H14N2OS
